US06320051B1
b) 2-(2-Aminomethylallylamino)-1H-quinolin-4-one dihydrochloride
The title compound was prepared according to the method described in Example 1(b) from 2-(2-aminomethylallylamino)-4-methoxyquinoline (70 mg, 0.29 mmol) and concentrated hydrochloric acid (2 mL) and was used without further purification. δH (CD3OD) 3.92 (2H, s), 4.53 (2H, s), 5.59 (2H, d, J=12.8), 6.61 (1H, d, J=0.9 Hz.), 7.65 (1H, dd, J=7.18 & 7.12 Hz), 7.93 (1H, dd, J=7.21 & 7.23 Hz), 8.02-8.16 (1H, m), 8.25 (1H, d, J=8.08 Hz); MS (ES+) 230 (31%) MH+ 213 (100%).

reactant | 2-(2-aminomethylallylamino)-4-methoxyquinoline | 0.29 mmol, 70 mg | NCC(CNC1=NC2=CC=CC=C2C(=C1)OC)=C | C14H17N3O
reactant | hydrochloric acid | 2 mL | Cl | ClH
product | 2-(2-Aminomethylallylamino)-1H-quinolin-4-one dihydrochloride | Cl.Cl.NCC(CNC=1NC2=CC=CC=C2C(C1)=O)=C | InChI=1S/C13H15N3O.2ClH/c1-9(7-14)8-15-13-6-12(17)10-4-2-3-5-11(10)16-13;;/h2-6H,1,7-8,14H2,(H2,15,16,17);2*1H
